US06933311B2
2-(5-isoquinolinyl)-N-{4-[(trifluoromethyl)thio]benzyl}butanamide
The title compound was prepared using the procedure described in Example 222B using 4-[(trifluoromethyl)thio]benzylamine and 2-(5-isoquinolinyl)butanoic acid instead of 4-(trifluoromethoxy)benzylamine and 5-isoquinolinylacetic acid. MS (ESI+) m/z 405 (M+H)+; MS (ESI−) m/z 403 (M−H)−; 1H NMR (DMSO, 300 MHz) δ 0.91 (t, J 7.5, 3H), 1.81 (m, 1H), 2.21 (m, 1H), 3.39 (m, 1H), 4.34 (m, 2H), 7.31 (m, 2H), 7.58 (m, 2H), 7.62 (d, J 7.8, 1H), 8.00 (m, 2H), 8.22 (d, J 7.1, 1H), 8.45 (m, 1H), 8.77 (m, 1H), 8.82 (m, 1H), 9.06 (t, J 6.8, 1H), 9.87 (s, 1H), 10.30 (br s, 1H); Anal. Calcd for C21H19F3N2OS+0.65 HCl: C, 58.91; H, 4.63; N, 6.54. Found: C, 59.24; H, 4.30; N, 6.60.

reactant | 4-[(trifluoromethyl)thio]benzylamine | FC(SC1=CC=C(CN)C=C1)(F)F | C8H8F3NS
reactant | 2-(5-isoquinolinyl)butanoic acid | C1=NC=CC2=C(C=CC=C12)C(C(=O)O)CC | C13H13NO2
reactant | 5-isoquinolinylacetic acid | C1=NC=CC2=C(C=CC=C12)CC(=O)O | C11H9NO2
product | 2-(5-isoquinolinyl)-N-{4-[(trifluoromethyl)thio]benzyl}butanamide | C1=NC=CC2=C(C=CC=C12)C(C(=O)NCC1=CC=C(C=C1)SC(F)(F)F)CC | C21H19F3N2OS
